US04292431
A mixture of 1.48 g (0.01 mol) of 5-methylimidazole-4-carboxylic acid sodium salt, 2 ml of ~37% formaldehyde solution and 3 ml of 1,4-dioxane was heated at 75°-85° C. for 3 hours. After completion of the reaction, the solvent was stripped off, and the remaining residue was extracted with isopropanol. The isopropanol extract was concentrated to give a viscous oil. This viscous oil was dissolved in absolute ethanol and dry hydrogen chloride gas was passed through the resulting solution to afford 0.93 g of 4-hydroxymethyl-5-methylimidazole hydrochloride, m.p. 241°-244° C. Yield 63%.

reactant | 5-methylimidazole-4-carboxylic acid sodium salt | 0.01 mol, 1.48 g | [Na+].CC1=C(N=CN1)C(=O)[O-]
reactant | formaldehyde | 2 ml | C=O | CH2O
reactant | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-hydroxymethyl-5-methylimidazole hydrochloride | 0.93 g, Yield 63% | Cl.OCC=1N=CNC1C | InChI=1S/C5H8N2O.ClH/c1-4-5(2-8)7-3-6-4;/h3,8H,2H2,1H3,(H,6,7);1H
